US05559145
This compound was prepared according to the method described in Example 7, except that isopropyl chloroformate was replaced by an equivalent portion of isovaleryl chloride. The product was purified by recrystallization from a mixture of hexane/dichloromethane as colourless crystals mp 97°-80° C., yield 87%.

reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
product | hexane dichloromethane | yield 87% | CCCCCC.ClCCl | InChI=1S/C6H14.CH2Cl2/c1-3-5-6-4-2;2-1-3/h3-6H2,1-2H3;1H2
